US04053483
38.2 g of pure phenol were mixed with 0.4 g of concentrated sulphuric acid, with stirring and heating to 60° C. 28.5 g (0.177 mole) of 7-methylisatin were added in portions. At the end of the addition, the temperature was raised to 85° C. and 21 g of PhOAc were gradually added dropwise over a period of 5 hours. Finally, the temperature of the stirred mixture was raised to 120° C. for 30 minutes. It was then allowed to cool, filtered and washed with abundant water to remove the PhOAc. The resulting solid was dried and gave 50 g. It was dissolved in acetone and precipitated with chloroform, allowed to cool and filtered. The solid formed was dried to yield 30 g of 3,3-bis-(4-hydroxyphenyl)-7-methyl-2 -indolinone, m.p. 272°-4° C. Yield: 52%.

reactant | phenol | 38.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | 7-methylisatin | 0.177 mole, 28.5 g | CC=1C=CC=C2C(C(NC12)=O)=O | C9H7NO2
reactant | PhOAc | 21 g | C1(=CC=CC=C1)OC(=O)C | C8H8O2
solvent | acetone | CC(=O)C | C3H6O
catalyst | sulphuric acid | 0.4 g | S(O)(O)(=O)=O | H2O4S
product | 3,3-bis-(4-hydroxyphenyl)-7-methyl-2 -indolinone | 30 g, Yield: 52% | OC1=CC=C(C=C1)C1(C(NC2=C(C=CC=C12)C)=O)C1=CC=C(C=C1)O | C21H17NO3
